US07465726B2
tert-Butyl 4-{4-[3-(1H-pyrrol-2-yl)phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylate
To a stirred solution of tert-butyl 4-[4-(3-iodophenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate (77.6 mg, 0.15 mmol), N-Boc-2-pyrrolylboronic acid (47.5 mg, 0.225 mmol) and potassium carbonate (41.5 mg, 0.3 mmol) in dioxane/water (4:1) (11.0 mL) was added PdCl2(dppf).CH2Cl2 (12.2 mg, 0.015 mmol). The mixture was heated at reflux for 18 h. Solvents were removed in vacuo and the residue was dissolved in DMF (≈2 mL). The DMF solution was filtered and purified by HPLC to afford the title compound. 1H-NMR(CD3OD, 400 MHz): δ=1.50 (s, 9H), 2.53 (m, 2H), 3.64 (m, 2H), 4.11 (m, 2H), 6.16 (t, J=2.8 Hz, 2H), 6.26 (s, 1H), 6.48 (dd, J=1.2, 3.6 Hz, 1H), 6.60 (s, 1H), 6.81 (dd, J=1.2, 2.8 Hz, 1H), 7.31 (s, 1H), 7.33 (s, 1H), 7.42-7.45 (m, 1H), 7.87 (s, 1H), 8.21 (s, 1H). MS (ES+): m/z 457.08 [MH+]. HPLC: tR=3.15 min (ZQ2000, polar—5 min).

reactant | tert-butyl 4-[4-(3-iodophenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate | 0.15 mmol, 77.6 mg | IC=1C=C(C=CC1)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C22H24IN5O2
reactant | N-Boc-2-pyrrolylboronic acid | 0.225 mmol, 47.5 mg | C(=O)(OC(C)(C)C)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | potassium carbonate | 0.3 mmol, 41.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | CH2Cl2 | 0.015 mmol, 12.2 mg | C(Cl)Cl | CH2Cl2
solvent | dioxane water | 11.0 mL | O1CCOCC1.O
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl 4-{4-[3-(1H-pyrrol-2-yl)phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylate | N1C(=CC=C1)C=1C=C(C=CC1)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C26H28N6O2
